US04822801
Ethyl 8-Chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-nitro-4-oxo-3-quinolinecarboxylate
The ethyl 2-(3-chloro-2,4,5-trifluoro-6-nitro- benzoyl)-3-ethoxyacrylate prepared in the previous step was dissolved in 200 ml of t-butanol and treated with 5.0 g (88 mmol) of cyclopropylamine. The reaction mixture was warmed to 45° C. and stirred for three hours at that temperature. The solution was then cooled to room temperature and treated with a slurry of 9.4 g (84 mmol) of potassium t-butoxide in 50 ml of t-butanol. The mixture was stirred at 60° C. for five hours; the suspension was filtered, and the solid was washed with water and ether to give 21.7 g of the title compound.

reactant | ethyl 2-(3-chloro-2,4,5-trifluoro-6-nitro- benzoyl)-3-ethoxyacrylate | ClC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C1F)F)[N+](=O)[O-])F | C14H11ClF3NO6
reactant | cyclopropylamine | 88 mmol, 5.0 g | C1(CC1)N | C3H7N
reactant | potassium t-butoxide | 84 mmol, 9.4 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 200 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 8-Chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-nitro-4-oxo-3-quinolinecarboxylate | 21.7 g | ClC=1C(=C(C(=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)[N+](=O)[O-])F)F | C15H11ClF2N2O5
